US05409886
To 20 ml of tetrahydrofuran were added 2.0 g of N-[1-methyl-1-(3-chlorophenyl)ethyl]-N-(1-methyl-2-oxopropyl)-2-(2-fluorophenyl)acetamide and 1.5 g of a 28% methanol solution of sodium methoxide, followed by stirring at room temperature for 5 minutes. After the solvent was distilled off, water was added, followed by extraction with ethyl acetate. After dried over anhydrous sodium sulfate, the solution was concentrated and then subjected to column chromatography to obtain 0.9 g of the desired 1-[1-methyl-1-(3-chlorophenyl)ethyl]-4,5-dimethyl-3-(2-fluorophenyl)-3-pyrroline-2-one.

reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | N-[1-methyl-1-(3-chlorophenyl)ethyl]-N-(1-methyl-2-oxopropyl)-2-(2-fluorophenyl)acetamide | 2.0 g | CC(C)(C1=CC(=CC=C1)Cl)N(C(CC1=C(C=CC=C1)F)=O)C(C(C)=O)C | C21H23ClFNO2
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 1-[1-methyl-1-(3-chlorophenyl)ethyl]-4,5-dimethyl-3-(2-fluorophenyl)-3-pyrroline-2-one | 0.9 g | CC(C)(C1=CC(=CC=C1)Cl)N1C(C(=C(C1C)C)C1=C(C=CC=C1)F)=O | C21H21ClFNO
